US08022099B2
b) (3RS,4SR)-1-Benzyl-4-(3-chloro-phenyl)-pyrrolidin-3-ylamine
To a stirred solution of (3SR,4RS)-1-benzyl-3-(3-chloro-phenyl)-4-nitro-pyrrolidine (6.30 g, 19.8 mmol) in EtOAc (150 ml) was added portion wise SnCl2.2H2O (22.43 g, 99 mmol). The reaction mixture was then heated at reflux for 4 hours, cooled down to RT and a saturated aqueous solution of NaHCO3 (500 ml) was added. The salts were filtered off and the product extracted with EtOAc. The organic phases were then dried over Na2SO4, and concentration under vacuum. A column chromatography (CH2Cl2/MeOH 95/5) gave 4.47 g (78%) of the title compound as a light yellow oil. ES-MS m/e: 287.0 (M+H+).

reactant | (3SR,4RS)-1-benzyl-3-(3-chloro-phenyl)-4-nitro-pyrrolidine | 19.8 mmol, 6.30 g | C(C1=CC=CC=C1)N1CC(C(C1)[N+](=O)[O-])C1=CC(=CC=C1)Cl | C17H17ClN2O2
reactant | SnCl2.2H2O | 99 mmol, 22.43 g | O.O.Cl[Sn]Cl
reactant | NaHCO3 | 500 ml | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 150 ml | CCOC(=O)C | C4H8O2
product | (3RS,4SR)-1-Benzyl-4-(3-chloro-phenyl)-pyrrolidin-3-ylamine | 4.47 g, 78% | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=CC=C1)Cl)N | C17H19ClN2
